* c:\users\mamat\onedrive\desktop\ajay_esim\final_project_files\device_modelling\2n5401\bjt_ce_config\bjt_ce_config.cir

.include 2N5401.lib
v1 gnd vce  dc 0
r1  vce net-_q1-pad1_ 1k
r2  net-_q1-pad2_ net-_r2-pad2_ 1k
* u_ic1  net-_r2-pad2_ ib plot_i2
q1 net-_q1-pad1_ net-_q1-pad2_ gnd 2N5401
v2 gnd ib  dc 0
v_u_ic1 net-_r2-pad2_ ib 0
.dc v2 0e-00 10e-00 0.05e-00 v1 0e-00 20e-00 5e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u_ic1)
.endc
.end
